US08080566B1
A 50-mL seal tube charge with a solution of ethyl 1-((9-ethyl-9H-carbazol-3-yl)methyl)piperidine-3-carboxylate (500 mg, 1.37 mmol, 1.00 equiv) in CH3NH2 (25 mL). To the mixture was added CuSO4 (100 mg, 0.51 mmol, 0.37 equiv). The resulting solution was stirred at 140° C. for 24 hours in an oil bath. The progress was monitored by TLC (dichloromethane/methanol=5:1). Upon completion, the solids were filtered out. The resulting solution was extracted with dichloromethane (2×50 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated on a rotary evaporator. The residue was purified by silica gel column chromatography eluted with dichloromethane/methanol (30:1) affording 1-((9-ethyl-9H-carbazol-3-yl)methyl)-N-methylpiperidine-3-carboxamide as white solid (28 mg, 6%). LCMS: [M+H]+: 350. 1H NMR (CDCl3, 300 MHz) δ 8.10 (d, 1H), 8.01 (s, 1H), 7.53-7.39 (m, 4H), 7.29-7.24 (m, 1H), 4.44-4.37 (q, 2H), 3.85-3.81 (d, 1H), 3.69-3.65 (d, 1H), 2.89 (m, 2H), 2.80-2.78 (d, 3H), 2.59 (br, 1H), 2.45 (br, 2H), 1.91 (m, 1H), 1.73-1.73 (m, 3H), 1.47 (t, 3H).

reactant | ethyl 1-((9-ethyl-9H-carbazol-3-yl)methyl)piperidine-3-carboxylate | 1.37 mmol, 500 mg, 1.00 equiv | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN1CC(CCC1)C(=O)OCC | C23H28N2O2
reactant | dichloromethane methanol | ClCCl.CO
reactant | CH3NH2 | 25 mL | CN | CH5N
catalyst | CuSO4 | 0.51 mmol, 100 mg, 0.37 equiv | [O-]S(=O)(=O)[O-].[Cu+2]
product | 1-((9-ethyl-9H-carbazol-3-yl)methyl)-N-methylpiperidine-3-carboxamide | 28 mg, 6% | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN1CC(CCC1)C(=O)NC | C22H27N3O
